* Created by KLayout

* cell INV_X8
* pin A
* pin Y
* pin vdd
* pin gnd
.SUBCKT INV_X8 1 2 3 4
* net 1 A
* net 2 Y
* net 3 vdd
* net 4 gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 2 1 3 3 PMOS_mst L=1U W=81.6U AS=135.66P AD=135.66P PS=118.4U PD=118.4U
* device instance $9 r0 *1 6.1,6.8 NMOS_mst
M$9 2 1 4 4 NMOS_mst L=1U W=27.2U AS=45.22P AD=45.22P PS=57.2U PD=57.2U
.ENDS INV_X8
